US05707987
(2S,4R)-2-Anilinomethyl-N-t-butoxycarbonyl-4-t-butyldimethylsiloxypyrrolidine (995 mg, yield: 82%) was prepared as a yellow oily substance, from (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxyprolinal (990 mg, 3 mmol) and aniline (0.3 ml, 3.3 mmol), in the same manner as in Reference Example 95-2.

reactant | (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxyprolinal | 3 mmol, 990 mg | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | aniline | 3.3 mmol, 0.3 ml | NC1=CC=CC=C1 | C6H7N
product | (2S,4R)-2-Anilinomethyl-N-t-butoxycarbonyl-4-t-butyldimethylsiloxypyrrolidine | 995 mg, yield: 82% | N(C1=CC=CC=C1)C[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C22H38N2O3Si
